Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cholangitis due to Probable Retained Gallstone
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
___ year old Male who presents with 3 days of abdominal pain, 
fevers, rigors and lethargy. The patient is status-post a recent 
cholecystectomy by Dr. ___ in ___, complicated by 
Bile-Salt Diarrhea. The patient had recent travel to ___. ___ 
returning on ___ to the ___, and now 3 days prior to 
admission noted sharp epigastric pain which resolved 1 day prior 
to presentation, and in the day prior to presentation he 
developed fevers, chills, rigors in addition to lethargy.

He also notes intermittent epigastric pain over the last several 
months, which he says is similar to the pain he had before 
having the cholecystectomy. 

He recently moved to ___. Was only here visiting for 
___ this past week. Had EGD ___ at ___ 
___ in ___, apparently showing ___ 
esophagus, but otherwise normal. Per patient, had normal labs at 
that time, without elevated LFTs. Was started on pantoprazole.

In the ___ ED his initial vitals were 100.0, 85, 148/78, 18, 
97. He subsequently spiked to 101.1. He was given 
Ampicillin-Sulbactam in addition to acetaminophen and 2L of IVF. 
An ultrasound was obtained and ERCP was consulted and the 
patient is scheduled for urgent ERCP in the morning.

Comprehensive 12-point review of systems is negative except as 
above.
 
Past Medical History:
Chronic hepatitis C - genotype 2b s/p treatment
Stage II Liver fibrosis
Knee Arthroscopy
Cholecystectomy
___ esophagus (per patient on ___ EGD)
 
Social History:
___
Family History:
Mother: DM2, died of CVA at age ___
Father: Died of CVA age ___
 
Physical Exam:
PHYSICAL EXAM:
VS: T 98, BP 103/66, HR 71, RR 16, O2 98% on RA
GEN: NAD, lying in bed, A&Ox3
HEENT: EOMI, MMM, no OP Lesions
PULM: Clear to auscultation bilaterally, no increased work of 
breathing
CV: RRR, S1/S2, no MRG
ABD: No tenderness even with deep palpation of RUQ/epigastrium, 
+BS, no CVAT
EXT: No c/c/e
NEURO: Non-Focal
 
Pertinent Results:
___ 05:15PM BLOOD WBC-9.3 RBC-4.33* Hgb-14.2 Hct-39.7* 
MCV-92 MCH-32.8* MCHC-35.8 RDW-12.3 RDWSD-41.1 Plt ___
___ 05:15PM BLOOD Neuts-83.5* Lymphs-4.5* Monos-11.4 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-7.72* AbsLymp-0.42* 
AbsMono-1.05* AbsEos-0.00* AbsBaso-0.03
___ 05:15PM BLOOD ___ PTT-29.0 ___
___ 05:15PM BLOOD Glucose-123* UreaN-12 Creat-0.9 Na-135 
K-3.4 Cl-97 HCO3-25 AnGap-16
___ 05:15PM BLOOD ALT-582* AST-383* LD(LDH)-264* 
AlkPhos-184* TotBili-4.1* DirBili-3.0* IndBili-1.1
___ 05:15PM BLOOD Lipase-19
___ 05:15PM BLOOD Albumin-4.7 Calcium-8.9 Phos-2.3* Mg-1.8
___ 05:22PM BLOOD Lactate-0.9
___ 07:17PM URINE Color-PND Appear-PND Sp ___
___ 07:17PM URINE Blood-PND Nitrite-PND Protein-PND 
Glucose-PND Ketone-PND Bilirub-PND Urobiln-PND pH-PND Leuks-PND
___ 07:17PM URINE GATE-PND

___ 5:15 pm BLOOD CULTURE
   Blood Culture, Routine (Pending): pending, NGTD

 
___ 7:17 pm URINE
   URINE CULTURE no growth

IMAGING:
CXR (___):
No acute cardiopulmonary process.  No pulmonary edema. 

RUQ Ultrasound (___):
Status post cholecystectomy. No retained stone visualized. There 
is concern for retained stone, MRCP can be considered. 
.
ERCP: 
Impression: •Normal major papilla.  
•Cannulation of the biliary duct was successful and deep with a 
sphincterotome using a free-hand technique. 
•There was a filling defect in the lower third of the common 
bile duct consistent with a small stone.  
•A sphincterotomy was performed in the 12 o'clock position using 
a sphincterotome over an existing guidewire.
•Balloon sweeps were performed of the common bile duct which 
yielded sludge and a small bile pigment stone. 
•Further sweeps were performed until no debris was noted. 
•Completion occlusion cholangiogram revealed no further filling 
defects.   

 

Recommendations: •Return to ward under ongoing care.
•NPO overnight with aggressive IV hydration with LR at 200 cc/hr
•If no abdominal pain late tonight or early in the morning, 
advance diet to clear liquids and then advance as tolerated
•No aspirin, Plavix, NSAIDS, Coumadin for 5 days.
•Continue with antibiotics - Ciprofloxacin 500mg BID x 5 days.
•Follow-up with referring physician as previously scheduled.
•Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call ERCP 
fellow on call ___
 

 
Brief Hospital Course:
This is a ___ with history of prior CCY presented with concerns 
for cholangitis and retained stone.

# Cholangitis/Choledocolithiasis-Pt is now S/P ERCP with removal 
of stone. Blood cultures pending but NGTD. He tolerated 
advancement of diet to regular today without any complications. 
He was recommended to take Cipro for 5 day total course of 
therapy. No NSAIDS x 5 days. He will need repeat LFTs in 1 week 
to ensure downtrending. 

# GERD / ___ esophagus:
___ play some role in patient's chronic pain, though current
episode most likely due to biliary issue given lab findings. 
Continued outpt pantoprazole. Pt advised to continue until 
instructed otherwise. 

#Depression:
Continued home wellbutrin

- Contact/HCP: ___ (wife) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO DAILY 
2. Acetaminophen 650 mg PO Q8H:PRN pain 
3. BuPROPion (Sustained Release) 150 mg PO BID 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*8 Tablet Refills:*0
3. Pantoprazole 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of fever and abdominal pain. 
You underwent an ERCP where a stone was removed. You will need 
to take an antibiotic called ciprofloxacin for 4 more days. 
Please do not take any aspirin, ibuprofen or naproxen or other 
"NSAID" for 5 days from date of ERCP. 
You will need to follow up with your PCP to have your liver 
function tests/labs rechecked within 1 week of discharge to 
ensure that they are trending down. 
 
Followup Instructions:
___